US04457859
To a solution of 30.9 g of 4-acetyl-4'-octylbiphenyl in 50 ml of acetic acid there are added 5.1 ml of bromine for one hour under stirring at the temperature of 50° C. The reaction mass is stirred for 1 hour at room temperature, poured into water, the organic layer is extracted with chloroform, the extract is washed with a 5% aqueous solution of soda, then with water and dried with sodium sulphate. Chloroform is distilled-off in vacuum and the residue is recrystallized from a minimum amount of ethanol to give 38 g of 4-bromoacetyl-4'-octylbiphenyl; from 19.6 g of the product and 16.5 g of benzaldehydeguanylhydrazone there is obtained, following the procedure of Example 1, 0.65 g of 1,1'-bisbenzylideneamino-4,4'-di-[4-(4-octylphenylene)-phenylene]-2,2'-azoimidazole (II /3/). The analysis data are shown in Table 1 hereinbelow.

reactant | 4-acetyl-4'-octylbiphenyl | 30.9 g | C(C)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)CCCCCCCC | C22H28O
reactant | bromine | 5.1 ml | BrBr | Br2
reactant | water | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 4-bromoacetyl-4'-octylbiphenyl | 38 g | BrCC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)CCCCCCCC | C22H27BrO
